US07544672B2
Step 1: 1-(4-Methyl-piperazin-1-yl)-pent-4-yn-1-one
A solution of 4-pentynoic acid (519 mg, 5.29 mmol) and Et3N (737 μL, 5.29 mmol) in DCM (10 mL) was treated with ethyl chloroformate (504 μL, 5.29 mmol) at rt for 15 min. Then N-methyl-piperazine (588 μL, 5.29 mmol) was added, and stirring was prolonged for 45 min. Work-up (sat. aq. NaHCO3) and concentration gave the title compound as a colorless oil. 1H NMR (CDCl3) δ 3.63 (t, 2H), 3.48 (t, 2H), 2.55 (m, 4H), 2.38 (quint., 4H), 2.30 (s, 3H).

reactant | 4-pentynoic acid | 5.29 mmol, 519 mg | C(CCC#C)(=O)O | C5H6O2
reactant | Et3N | 5.29 mmol, 737 μL | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 5.29 mmol, 504 μL | ClC(=O)OCC | C3H5ClO2
reactant | N-methyl-piperazine | 5.29 mmol, 588 μL | CN1CCNCC1 | C5H12N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Methyl-piperazin-1-yl)-pent-4-yn-1-one | CN1CCN(CC1)C(CCC#C)=O | C10H16N2O
